US07745641B2
In a similar manner to Step 2 of Example 6, 4-(2-pyridinesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (0.455 g, 0.807 mmol) was dissolved in acetonitrile (16.0 mL), and the solution was treated with dimethylamine hydrochloride (1.31 g, 16.1 mmol), triethylamine (2.20 mL, 16.1 mmol), acetic acid (0.924 mL, 16.1 mmol) and sodium triacetoxyborohydride (0.513 g, 2.42 mmol), followed by purification of the residue by flash column chromatography (chloroform/methanol=80/20) to obtain 4-(2-pyridinesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(dimethylaminomethyl)indol-2-yl]isoindolinone (0.192 g, 40%).

reactant | 4-(2-pyridinesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.807 mmol, 0.455 g | N1=C(C=CC=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C28H25N3O8S
reactant | dimethylamine hydrochloride | 16.1 mmol, 1.31 g | Cl.CNC
reactant | triethylamine | 16.1 mmol, 2.20 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 16.1 mmol, 0.924 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.42 mmol, 0.513 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 16.0 mL | C(C)#N | C2H3N
product | 4-(2-pyridinesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(dimethylaminomethyl)indol-2-yl]isoindolinone | 0.192 g, 40% | N1=C(C=CC=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)CN(C)C)C(=O)OC(C)(C)C)=O | C30H32N4O7S
